US08236835B2
Preparation of 3-(4-fluorobenzyl)pyrrolidin-2-one
To a suspension of potassium tert-butoxide (2.00 g, 18.0 mmol) in anhydrous tetrahydrofuran (40 mL) was added a mixture of 1-(2,2,2-trifluoroacetyl)-pyrrolidin-2-one (2.12 g, 12.0 mmol) and 4-fluorobenzaldehyde (1.24 mL, 12.0 mmol) in anhydrous tetrahydrofuran (5 mL) dropwise at 0° C. The reaction mixture was stirred at ambient temperature for 2 hours, then refluxed for 1 hour and concentrated in vacuo. Water (150 mL) was added to the residue. The white solid precipitated was filtered and re-dissolved in ethyl acetate (50 mL) and then hydrogenated in the presence of catalytic amount of palladium on carbon (20% w/w) at ambient temperature and atmospheric pressure for 3 hours. The reaction mixture was filtered through a bed of celite. The filtrate was concentrated in vacuo and the residue was purified by column chromatography (ethyl acetate) to afford the title compound as a white solid (0.72 g, 35%): 1H NMR (300 MHz, CDCl3) δ 7.20-7.09 (m, 2H), 7.00-6.90 (m, 2H), 6.42 (s, 1H), 3.31-3.07 (m, 3H), 2.71-2.54 (m, 2H), 2.19-2.03 (m, 1H), 1.89-1.69 (m, 1H); MS (ES+) m/z 194.1 (M+1).

reactant | potassium tert-butoxide | 18.0 mmol, 2.00 g | CC(C)([O-])C.[K+]
reactant | 1-(2,2,2-trifluoroacetyl)-pyrrolidin-2-one | 12.0 mmol, 2.12 g | FC(C(=O)N1C(CCC1)=O)(F)F | C6H6F3NO2
reactant | 4-fluorobenzaldehyde | 12.0 mmol, 1.24 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(4-fluorobenzyl)pyrrolidin-2-one | 0.72 g, 35% | FC1=CC=C(CC2C(NCC2)=O)C=C1 | C11H12FNO
